US08350099B2
Preparation of 2-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)terephthalic acid
Dimethyl 2-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)-propoxy)ethoxy)terephthalate as prepared in Example 11 (2.25 g, 0.035 mol) was added to a solution of water (50 mL) and potassium hydroxide (KOH, 1.96 g) in a reaction flask. The resulting solution in the reaction flask was heated for 5 hours, cooled to room temperature (about 25° C.) and then acidified by adding concentrated HCl to the reaction flask until a pH of ˜1 was achieved, determined by the formation of a precipitate in the reaction flask. The resulting precipitate was filtered and dried under vacuum. Proton NMR of this precipitate showed the desired material, 2-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)terephthalic acid. The precipitate was then crystallized from ethyl acetate (EtOAc, ˜1 part) and hexane (˜4 parts). After filtration and drying under vacuum, the resulting white di-acid, 2-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)terephthalic acid, had a melting point of 236-239° C.

reactant | Dimethyl 2-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)-propoxy)ethoxy)terephthalate | FC(C(OC(C(C(F)(F)F)(OC(C(C(F)(F)F)(F)F)(F)F)F)(F)F)F)(OC1=C(C(=O)OC)C=CC(=C1)C(=O)OC)F | C18H10F16O7
reactant | potassium hydroxide | 1.96 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | water | 50 mL | O | H2O
product | 2-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)terephthalic acid | FC(C(OC(C(C(F)(F)F)(OC(C(C(F)(F)F)(F)F)(F)F)F)(F)F)F)(OC1=C(C(=O)O)C=CC(=C1)C(=O)O)F | C16H6F16O7
